US05364917
4-(2-Bromotetrafluoroethoxy)aniline
The product of the previous reaction, 4-(2bromotetrafluoroethoxy)nitrobenzene (20.0 g, 0.069 mole), is added to a 50 percent by volume solution of ethyl alcohol in water (30.0 g) and powdered iron filings (11.0 g, 0.20 mole) in a 250 ml 3-necked round bottomed flask fitted with a nitrogen padded reflux condenser and a dropping addition funnel. The mixture is purged thoroughly with nitrogen, and brought to reflux. A solution of concentrated HCl (1.3 ml, 0.0156 mole) in 8 ml ethanol/water (1:1 by volume) is added slowly drop wise over 30 minutes. The resulting reaction mixture is refluxed for 3 hours, then cooled to room temperature. The mixture is filtered and the solids are washed twice with dilute KOH (10 ml each, 0.01M), just enough to make the flitrate up to pH 7. The solids are then washed with acetone (25 ml) and the acetone wash is added to the flitrate. The flitrate phase-separates, and the lower phase is removed and distilled on a rotary evaporator (2.0 mm Hg (2.66 kPa), 100° C.) to recover the pure product (7.47 g, 0.026 mole, 37 percent yield) as a water white oil in greater than 99 percent purity.

reactant | 4-(2bromotetrafluoroethoxy)nitrobenzene | 0.069 mole, 20.0 g | BrC(C(OC1=CC=C(C=C1)[N+](=O)[O-])(F)F)(F)F | C8H4BrF4NO3
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | HCl | 0.0156 mole, 1.3 ml | Cl | ClH
solvent | water | 30.0 g | O | H2O
solvent | iron | [Fe] | Fe
solvent | ethanol water | 8 ml | C(C)O.O
product | 4-(2-Bromotetrafluoroethoxy)aniline | 0.026 mole, 7.47 g, 37 percent yield | BrC(C(OC1=CC=C(N)C=C1)(F)F)(F)F | C8H6BrF4NO
